data/mechanism_extracts/Angew/10.1002_anie.201200878.json
{"doi": "10.1002_anie.201200878", "journal": "Angew", "is_review": false, "rxn_class_summary": "Anodic oxidation of methanol at a boron-doped diamond (BDD) electrode generates methoxy radicals, which enable construction of bisdimethyl acetals from dimethoxybenzyl ethers and an electrochemical biomimetic synthesis of the benzofuran neolignan (±)-licarin A from isoeugenol.", "mechanism_family": ["radical_anodic", "direct_SET", "radical_cation"], "electrochemical_role": "Anodic oxidation: MeOH/MeO- is oxidized at the BDD anode to generate methoxy radicals (MeO•); substrates (electron-rich arenes, isoeugenol) are also oxidized at the anode to aryl radical cations under CPE conditions.", "key_intermediates": [{"name": "methoxy radical (MeO•)", "smiles": "[O]C", "role": "reactive"}, {"name": "aryl radical cation of 2,5-dimethoxybenzyl ether (A)", "smiles": null, "role": "transient"}, {"name": "methoxy-substituted cyclohexadienyl radical adduct (C)", "smiles": null, "role": "transient"}, {"name": "oxocarbenium-type cation (B) en route to bisdimethyl acetal 2", "smiles": null, "role": "transient"}, {"name": "phenoxyl/benzylic radical cation D from a phenol precursor", "smiles": null, "role": "transient"}, {"name": "oxocarbenium E leading to aldehyde 3 by loss of MeOR", "smiles": null, "role": "transient"}, {"name": "isoeugenol-derived radical/radical cation 9", "smiles": null, "role": "reactive"}, {"name": "DMPO-OMe O-adduct nitroxyl radical (ESR-observed)", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, methanol/methoxide is oxidized by single-electron transfer to give methoxy radicals; in parallel, electron-rich arene substrates undergo anodic SET to radical cations that are trapped by MeOH/MeO-, followed by a second oxidation and loss of a proton or MeOR to deliver bisdimethyl acetals, aldehydes, or (for isoeugenol) radical intermediate 9 that couples/cyclizes to licarin A.", "rate_determining_step": null, "probe_reagents": [{"name": "DMPO (5,5-dimethyl-1-pyrroline N-oxide)", "smiles": "CC1(C)CC=[N+]1[O-]", "purpose": "radical_trap", "observation": "Electrolysis of MeOH in the presence of DMPO gave an ESR signal matching the DMPO O-methoxy adduct (A_N = 13.37 G, A_H = 7.98 G), confirming generation of methoxy (not hydroxymethyl) radicals; signal intensity followed BDD > Pt > GC anode."}, {"name": "Linear sweep voltammetry of isoeugenol (5)", "smiles": "COc1cc(/C=C/C)ccc1O", "purpose": "redox_probe", "observation": "Established first and second oxidation potentials used to set CPE potentials (entries 1–6); higher potential on BDD (1.06 V vs SCE) gave the best licarin A yield (40%)."}, {"name": "Anode material variation (BDD vs Pt vs GC)", "smiles": null, "purpose": "other", "observation": "BDD anode gave the strongest methoxy-radical ESR signal and the highest yield of licarin A (40%), consistent with more efficient MeO• generation at BDD."}], "evidence_types_used": ["EPR", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "The mechanism is supported chiefly by DMPO spin-trapping/ESR detection of methoxy radicals and by anode-material-dependent yields, plus LSV measurements of substrate oxidation potentials; no KIE, DFT, or isotope labeling is reported. Two parallel anodic pathways are proposed: (i) direct SET oxidation of the arene to a radical cation followed by MeOH/MeO- addition (Scheme 1, intermediates A→C→B→2 and D→E→3), and (ii) anodic generation of MeO• that can add to the arene; both can plausibly contribute. For isoeugenol, vicinal byproducts 7 and 8 are rationalized via self-coupling of radical intermediate 9."}
